US04628024
82.5 g of ethyl p-aminobenzoate was dissolved in 500 ml of toluene, to the solution was added 83.4 g of N,N-diethylthiocarbamoyl chloride and the mixture was refluxed by heating for 8 hours. After cooling with ice, 100 ml of concentrated hydrochloric acid was added to the reaction mixture and then the toluene layer was separated and washed with water. The toluene was distilled off under reduced pressure and the residual oily product was crystallized from methanol to obtain 77.1 g of ethyl p-isothiocyanatobenzoate. Yield: 74.5%. Melting Point: 52° C.

reactant | ethyl p-aminobenzoate | 82.5 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | N,N-diethylthiocarbamoyl chloride | 83.4 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl p-isothiocyanatobenzoate | 77.1 g, Yield: 74.5% | N(=C=S)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2S
